US08809525B2
5-[4-(methoxymethyl)phenyl]-1,2,4-triazin-3-amine (2.2 g, 85%) was prepared from 5-[4-(methoxymethyl)phenyl]-3-(methylsulfonyl)-1,2,4-triazine (3.40 g, 12.2 mmol) in THF (35 mL) and treated with NH3 gas by purging for 30 minutes, similarly to the general procedure of Preparation 2.

reactant | 5-[4-(methoxymethyl)phenyl]-3-(methylsulfonyl)-1,2,4-triazine | 12.2 mmol, 3.40 g | COCC1=CC=C(C=C1)C=1N=C(N=NC1)S(=O)(=O)C | C12H13N3O3S
reactant | NH3 | N | H3N
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 5-[4-(methoxymethyl)phenyl]-1,2,4-triazin-3-amine | 2.2 g, 85% | COCC1=CC=C(C=C1)C=1N=C(N=NC1)N | C11H12N4O
